US04328206
Preparation of Isopropyl Phenethylether
To the toluene mixture is added 260 grams of propionic anhydride and the propionic anhydride/toluene/phenylethyl alcohol/isopropyl phenethylether mixture is then refluxed for a period of 30 minutes. The reaction mass is then cooled down and one liter of water is added thereto. The reaction mass is then washed with 50% caustic followed by saturated sodium chloride and then neutralized with saturated sodium bicarbonate.

reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | propionic anhydride | 260 grams | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | propionic anhydride toluene phenylethyl alcohol isopropyl phenethylether | C(CC)(=O)OC(CC)=O.C1(=CC=CC=C1)C.C1(=CC=CC=C1)CCO.C(C)(C)OCCC1=CC=CC=C1
solvent | water | one liter | O | H2O
product | Isopropyl Phenethylether | C(C)(C)OCCC1=CC=CC=C1 | C11H16O
